US05834434
HCl -4-aminobenzoyl methionine methyl ester
N-BOC-4-aminobenzoyl methionine methyl ester (3.53 g, 9.59 mmol) was placed into CH2Cl2 (30-35 ml) and to it was added 3M HCl/Et2O (38.4 ml). After standing a white precipitate formed. After 2 hours the solution was decanted, and the crystals were collected by centrifugation. The crystals were then washed several times with fresh ether and dried overnight on the vacuum pump. Meanwhile, the filtrate was left to stand overnight to allow additional product to precipitate. The second fraction was washed with ether and dried overnight on the vacuum pump. The total yield of pure fully deprotected material was 2.87 g (93.9%) yield. mp 158-164° C.; 1H NMR (CDCl3) 2.10 (3 H, s), 2.12-b 2.29 (1 H, m), 2.52-2.71 (1 H, m), 2.59 (2 H, t, J=7.6 Hz), 3.75 (3 H, s), 4.79 (1 H, m), 7.02 (2 H, d, J=8.6 Hz), 7.55 (2 H, d, J=8.6 Hz); 13C NMR (CDCl3) 15.23, 31.43, 31.53, 52.91, 52.43, 124.35, 130.56, 135.31, 135.76, 168.95, 173.87; HRMS calc. for C13H18N2O3 S, 282.1038, found 282.1009.

reactant | N-BOC-4-aminobenzoyl methionine methyl ester | 9.59 mmol, 3.53 g | COC([C@@H](N(C(=O)OC(C)(C)C)C(C1=CC=C(C=C1)N)=O)CCSC)=O | C18H26N2O5S
reactant | HCl Et2O | 3M, 38.4 ml | Cl.CCOCC
solvent | CH2Cl2 | 30-35 ml | C(Cl)Cl | CH2Cl2
product | HCl 4-aminobenzoyl methionine methyl ester | Cl.COC([C@@H](NC(C1=CC=C(C=C1)N)=O)CCSC)=O | InChI=1S/C13H18N2O3S.ClH/c1-18-13(17)11(7-8-19-2)15-12(16)9-3-5-10(14)6-4-9;/h3-6,11H,7-8,14H2,1-2H3,(H,15,16);1H/t11-;/m0./s1
